US06710080B2
10.0 g (51.0 mmol) 2-bromophenylacetonitrile were dissolved in 80 ml ether and the solution was added dropwise to 5.81 g (153 mol) lithium aluminium hydride in 230 ml ether. The mixture was heated under reflux for three hours, while stirring, and, after cooling, 80 ml potassium hydroxide solution (10 wt. %) were slowly added dropwise, with vigorous stirring. After stirring overnight, the supernatant was decanted off, the residue was rinsed twice with 100 ml ether each time, the combined organic phases were dried over anhydrous magnesium sulfate and filtered and the filtrate was concentrated on a rotary evaporator (500-10 mbar). 9.48 g 2-(2-bromo-phenyl)-ethylamine (93% of theory) were obtained in this manner.

reactant | 2-bromophenylacetonitrile | 51.0 mmol, 10.0 g | BrC1=C(C=CC=C1)CC#N | C8H6BrN
reactant | lithium aluminium hydride | 153 mol, 5.81 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | potassium hydroxide | 80 ml | [OH-].[K+]
solvent | ether | 80 ml | CCOCC | C4H10O
solvent | ether | 230 ml | CCOCC | C4H10O
product | 2-(2-bromo-phenyl)-ethylamine | 9.48 g, 93% | BrC1=C(C=CC=C1)CCN | C8H10BrN
